US07858640B2
8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol
A mixture of 3-amino-4-chlorophenol (0.36 g), 3-(4-chlorophenylsulfanyl)pentane-2,4-dione (0.61 g) and p-toluenesulfonic acid monohydrate (0.040 g) was heated at 140° C. for 10 hours. The mixture was cooled to room temperature and purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 0:1 by volume) to afford title compound as a brown oil, 0.050 g.

reactant | 3-amino-4-chlorophenol | 0.36 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 3-(4-chlorophenylsulfanyl)pentane-2,4-dione | 0.61 g | ClC1=CC=C(C=C1)SC(C(C)=O)C(C)=O | C11H11ClO2S
reactant | p-toluenesulfonic acid monohydrate | 0.040 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 8-chloro-3-(4-chlorophenylsulfanyl)-2,4-dimethylquinolin-5-ol | ClC1=CC=C(C=2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)C)O | C17H13Cl2NOS
